US05198014
A stirred slurry of 1.1 grams (0.003 mole) of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid and 1.0 mL of thionyl chloride in 20 mL of toluene was heated at about 72° C. for 25 minutes. The slurry was warmed to 98° C. over a 45 minutes period, during which time the reaction mixture became homogeneous. The reaction mixture was heated at 98° C. for 35 minutes. After this time, the reaction mixture was cooled and concentrated under reduced pressure, yielding 1.1 grams of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride. The acid chloride was used without purification.

reactant | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid | 0.003 mole, 1.1 grams | C(#N)C=1C=NN(C1C=CC(=O)O)C1=NC=C(C=C1Cl)C(F)(F)F | C13H6ClF3N4O2
reactant | thionyl chloride | 1.0 mL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid chloride | 1.1 grams | C(#N)C=1C=NN(C1C=CC(=O)Cl)C1=NC=C(C=C1Cl)C(F)(F)F | C13H5Cl2F3N4O
